US07560558B2
A 6-benzyloxy-4-chloroquinoline derivative or a corresponding quinazolone derivative is reacted with a phenol derivative or a corresponding aniline derivative in a suitable solvent, for example, o-dichlorobenzene, or in the absence of a solvent, for example, at 120 to 180° C. (step (i) above). Next, a 6-hydroxyquinoline derivative may be produced by reacting the resultant compound with a suitable acid, for example, methanesulfonic acid/trifluoroacetic acid (step (ii) above). The contemplated compound may be produced by reacting the 6-hydroxyquinoline derivative with an alkylating agent, for example, 1-bromo-2-chloroethane (step (iii) above).

reactant | 6-benzyloxy-4-chloroquinoline | C(C1=CC=CC=C1)OC=1C=C2C(=CC=NC2=CC1)Cl | C16H12ClNO
reactant | quinazolone | N1C(N=CC2=CC=CC=C12)=O | C8H6N2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-hydroxyquinoline | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
